### PR TITLE
[Merged by Bors] - feat (Topology/Algebra/RestrictedProduct): add API

### PR DESCRIPTION
**Pull request by kbuzzard**
In this PR we add `ext`, `eval` and `map` API for `RestrictedProduct`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

(I also remove the global {S T : Set \io} variables because S is reused later in the file to mean the subobject type, S the set is only used once and T isn't used at all)

### CODE REVIEW

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 1]
```diff
@@ -268,6 +282,120 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+variable {S : ι → Type*}
+variable [Π i, SetLike (S i) (R i)]
+variable {B : Π i, S i}
+
+/-- `RestrictedProduct.eval j` is the function from the restricted
+product `Πʳ i, [R i, B i]_[𝓕]` to the
+component `R j`. See also `evalMonoidHom`, `evalAddMonoidHom` and `evalRingHom` for
+evaluation as a monoid or ring homomorphism when `R i` is a monoid or ring.
+-/
+def eval (j : ι) (x : Πʳ i, [R i, B i]_[𝓕]) : R j := x j
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:296]: Is the intended simp normal form `eval i x` or `x i`? If it is the former, then this definition should be moved earlier and all previous mentions of `x i` in statements should be replaced. If it is the latter, I'd argue this def shouldn't exist.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 2]
```diff
@@ -268,6 +282,120 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+/-- `RestrictedProduct.evalMonoidHom j` is the monoid homomorphism from the restricted
+product `Πʳ i, [R i, B i]_[𝓕]` to the component `R j`.
+-/
+@[to_additive "`RestrictedProduct.evalAddMonoidHom j` is the monoid homomorphism from the restricted
+product `Πʳ i, [R i, B i]_[𝓕]` to the component `R j`."]
+def evalMonoidHom (j : ι) [Π i, Monoid (R i)] [∀ i, SubmonoidClass (S i) (R i)] :
+    (Πʳ i, [R i, B i]_[𝓕]) →* R j where
+      toFun := eval R j
+      map_one' := rfl
+      map_mul' _ _ := rfl
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:307]:
```suggestion
  toFun := eval R j
  map_one' := rfl
  map_mul' _ _ := rfl
```

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 3]
```diff
@@ -268,6 +282,120 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+
+/-- `RestrictedProduct.evalRingHom j` is the ring homomorphism from the restricted
+product `Πʳ i, [R i, B i]_[𝓕]` to the component `R j`.
+-/
+def evalRingHom (j : ι) [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
+    (Πʳ i, [R i, B i]_[𝓕]) →+* R j where
+      __ := evalMonoidHom R j
+      __ := evalAddMonoidHom R j
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:315]:
```suggestion
  __ := evalMonoidHom R j
  __ := evalAddMonoidHom R j
```

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 4]
```diff
@@ -268,6 +282,120 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+sending `A₁ (f j)` into `A₂ j` for an `𝓕₂`-large set of `j`'s.
+
+See also `mapMonoidHom`, `mapAddMonoidHom` and `mapRingHom` for variants.
+-/
+def map (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) : Πʳ j, [R₂ j, A₂ j]_[𝓕₂] := ⟨fun j ↦ φ j (x (f j)), by
+  apply mem_of_superset (𝓕₂.inter_mem hφ (hf x.2))
+  simp only [SetLike.mem_coe, preimage_setOf_eq]
+  rintro _ ⟨h1, h2⟩
+  exact h1 h2
+  ⟩
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:347]:
```suggestion
  exact h1 h2⟩
```

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 1 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:296]: I've deleted it, I only introduced it because I needed the ring hom.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 5]
```diff
@@ -268,6 +282,113 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+section map
+
+variable {ι₁ ι₂ : Type*}
+variable (R₁ : ι₁ → Type*) (R₂ : ι₂ → Type*)
+variable {𝓕₁ : Filter ι₁} {𝓕₂ : Filter ι₂}
+variable {A₁ : (i : ι₁) → Set (R₁ i)} {A₂ : (i : ι₂) → Set (R₂ i)}
+variable {S₁ : ι₁ → Type*} {S₂ : ι₂ → Type*}
+variable [Π i, SetLike (S₁ i) (R₁ i)] [Π j, SetLike (S₂ j) (R₂ j)]
+variable {B₁ : Π i, S₁ i} {B₂ : Π j, S₂ j}
+variable (f : ι₂ → ι₁) (hf : 𝓕₂.Tendsto f 𝓕₁)
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:321]:
```suggestion
variable (f : ι₂ → ι₁) (hf : Tendsto f 𝓕₂ 𝓕₁)
```

We usually don't push for dot notation here since it makes things harder to read.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 6]
```diff
@@ -545,13 +666,13 @@ theorem isOpenEmbedding_structureMap :
 include hAopen in
 theorem nhds_eq_map_inclusion {S : Set ι} (hS : cofinite ≤ 𝓟 S)
     (x : Πʳ i, [R i, A i]_[𝓟 S]) :
-    (𝓝 (inclusion R A hS x)) = map (inclusion R A hS) (𝓝 x) := by
+    (𝓝 (inclusion R A hS x)) = (𝓝 x).map (inclusion R A hS) := by
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:669]: I don't know if this is written down somewhere, but I think this is another case where we deliberately avoid dot notation. The argument here (apart from the fact that Patrick finds this unreadable) is that we want the notation to be similar to the image of a set under a function, so the function should come first.

`.map` should work, right? Otherwise even `Filter.map` is fine I think.

**Review by ADedecker — COMMENTED** [review]
Some quick comments, I will come back to this tomorrow.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:669]: I changed it because after defining RestrictedProduct.map it became ambiguous. What do you suggest?

Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:669]: I suggest `.map _ _`, which should resolve to `Filter.map _ _` thanks to the expected type

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 7]
```diff
@@ -268,6 +282,113 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+such that `𝓕₂` tends to `𝓕₁` along `f`, and functions `φ j : R₁ (f j) → R₂ j`
+sending `A₁ (f j)` into `A₂ j` for an `𝓕₂`-large set of `j`'s.
+
+See also `mapMonoidHom`, `mapAddMonoidHom` and `mapRingHom` for variants.
+-/
+def map (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) : Πʳ j, [R₂ j, A₂ j]_[𝓕₂] := ⟨fun j ↦ φ j (x (f j)), by
+  apply mem_of_superset (𝓕₂.inter_mem hφ (hf x.2))
+  simp only [SetLike.mem_coe, preimage_setOf_eq]
+  rintro _ ⟨h1, h2⟩
+  exact h1 h2⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:339]:
```suggestion
  filter_upwards [hf.eventually x.2, hφ] using fun _ h1 h2 ↦ h2 h1⟩
```

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 8]
```diff
@@ -268,6 +282,113 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+section monoid
+
+variable [Π i, Monoid (R₁ i)] [Π i, Monoid (R₂ i)] [∀ i, SubmonoidClass (S₁ i) (R₁ i)]
+    [∀ i, SubmonoidClass (S₂ i) (R₂ i)] (φ : ∀ j, R₁ (f j) →* R₂ j)
+    (hφ : ∀ᶠ j in 𝓕₂, B₁ (f j) ≤ φ j ⁻¹' B₂ j)
+
+/--
+Given two restricted products `Πʳ (i : ι₁), [R₁ i, B₁ i]_[𝓕₁]` and `Πʳ (j : ι₂), [R₂ j, B₂ j]_[𝓕₂]`,
+`RestrictedProduct.mapMonoidHom` gives a monoid homomorphism between them. The data needed is a
+function `f : ι₂ → ι₁` such that `𝓕₂` tends to `𝓕₁` along `f`, and functions `φ j : R₁ (f j) → R₂ j`
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:352]:
```suggestion
function `f : ι₂ → ι₁` such that `𝓕₂` tends to `𝓕₁` along `f`, and monoid homomorphisms `φ j : R₁ (f j) → R₂ j`
```
(and same below)

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 9]
```diff
@@ -268,6 +282,113 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+sending `A₁ (f j)` into `A₂ j` for an `𝓕₂`-large set of `j`'s.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:353]:
```suggestion
sending `B₁ (f j)` into `B₂ j` for an `𝓕₂`-large set of `j`'s.
```
(and same below)

**Review by ADedecker — APPROVED** [review]
Is there any reason not to add elementary simp lemmas for these constructions? E.g:
```lean
@[simp]
lemma map_apply (x : Πʳ i, [R₁ i, A₁ i]_[𝓕₁]) (j : ι₂) :
    x.map R₁ R₂ f hf φ hφ j = φ j (x (f j)) :=
  rfl
```

Otherwise LGTM, thanks!

bors d+

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 10]
```diff
@@ -268,6 +282,147 @@ instance [Π i, Ring (R i)] [∀ i, SubringClass (S i) (R i)] :
...
+    x.map R₁ R₂ f hf φ hφ j = φ j (x (f j)) :=
+  rfl
+
+end set
+
+section monoid
+
+variable [Π i, Monoid (R₁ i)] [Π i, Monoid (R₂ i)] [∀ i, SubmonoidClass (S₁ i) (R₁ i)]
+    [∀ i, SubmonoidClass (S₂ i) (R₂ i)] (φ : ∀ j, R₁ (f j) →* R₂ j)
+    (hφ : ∀ᶠ j in 𝓕₂, B₁ (f j) ≤ φ j ⁻¹' B₂ j)
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:370]: This `≤` should be an inclusion, right?

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:370]: I was following your convention where the A's were sets and the B's were SetLike (and in fact are submonoids here in the applications). Are you suggesting `⊆`? This doesn't compile.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:359]: I claim that it doesn't compile for stupid reasons: in the end, this is an inequality between *sets* (so indeed an inclusion), not subobject types, precisely because of the preimage.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:359]: I don't think there is anything specific. Note that we cannot have any analog of e.g [Subgroup.map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Map.html#Subgroup.map) for any `SubgroupClass` type, because group homomorphisms do not map vector subspaces to vector subspaces.

Comment (kbuzzard) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean]: I'll just use Set.MapsTo again

**Review by kbuzzard — COMMENTED** [review]
bors r+
